US07842713B2
7-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo[b]thiophene-5-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 7-hydroxybenzo[b]thiophene-5-carboxylate (0.275 g, 1.24 mmol) and 2,4-difluoro-N,N-dimethylbenzamide (0.286 g, 1.55 mmol) in DMF (5 mL). The mixture was stirred at 150° C. for 8 hours and then cooled to room temperature. 1-Methyl-1H-pyrazol-3-amine (0.21 g, 2.17 mmol) and then HATU (0.71 g, 1.87 mmol) were added. The reaction mixture was stirred at 50° C. for one hour and then filtered. Purification by HPLC gave a solid (100 mg, 19% yield) as expected product. DMSO-d6) δ 10.96 (s, 1 H) 8.46 (m, 1 H) 7.91-7.93 (d, 1 H)) 7.67 (m, 1 H) 7.65-7.66 (m, 1 H) 7.60-7.61 (m, 1 H) 7.41-7.45 (t, 1 H) 7.14-7.17 (m, 1 H) 6.99-7.01 (m, 1 H) 6.59 (m, 1 H) 3.78 (s, 3 H) 3.00 (s, 3 H) 2.88 (m, 3 H).

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 7-hydroxybenzo[b]thiophene-5-carboxylate | 1.24 mmol, 0.275 g | OC1=CC(=CC2=C1SC=C2)C(=O)OCC | C11H10O3S
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.55 mmol, 0.286 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 1-Methyl-1H-pyrazol-3-amine | 2.17 mmol, 0.21 g | CN1N=C(C=C1)N | C4H7N3
reactant | HATU | 1.87 mmol, 0.71 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo[b]thiophene-5-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC3=C2SC=C3)C(=O)NC3=NN(C=C3)C)C=C1)F)C | C22H19FN4O3S
